US08609727B2
Triphenyl-[2-(4′-trifluoromethylbiphenyl-4-ylmethoxy)benzyl]phosphonium bromide
A solution of 11.7 g (32.65 mmol) of [2-(4′-trifluoromethylbiphenyl-4-ylmethoxy)phenyl]methanol in 100 ml of acetonitrile is mixed with 10.64 g (31.02 mmol) of triphenylphosphonium hydrobromide and heated under reflux for 3 hours. The reaction solution is then evaporated to dryness, and the resulting oil is taken up and triturated in diethyl ether. The product crystallizes as a white solid. After filtration, the solid is dried in a drying oven at 50° C. overnight. 20.5 g (30 mmol, 92% yield) of crystalline product are obtained.

reactant | [2-(4′-trifluoromethylbiphenyl-4-ylmethoxy)phenyl]methanol | 32.65 mmol, 11.7 g | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)COC1=C(C=CC=C1)CO)(F)F | C21H17F3O2
reactant | triphenylphosphonium hydrobromide | 31.02 mmol, 10.64 g | Br.C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | Triphenyl-[2-(4′-trifluoromethylbiphenyl-4-ylmethoxy)benzyl]phosphonium bromide | 30 mmol, 20.5 g, 92% yield | [Br-].C1(=CC=CC=C1)[P+](CC1=C(C=CC=C1)OCC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C39H31F3OP.BrH/c40-39(41,42)34-26-24-32(25-27-34)31-22-20-30(21-23-31)28-43-38-19-11-10-12-33(38)29-44(35-13-4-1-5-14-35,36-15-6-2-7-16-36)37-17-8-3-9-18-37;/h1-27H,28-29H2;1H/q+1;/p-1
